US05236952
19.7 g of ethyl (3,4-dimethoxy-5-nitrophenyl)hydroxyacetimidate are dissolved in 500 ml of ethanol, 6.73 g of o-phenylenediamine are added, the mixture is stirred at room temperature for 2 hours and subsequently held at the reflux temperature overnight. After distillation of the solvent, the residue is treated with 50 ml of water, made alkaline with sodium carbonate solution and extracted twice with 250 ml of methylene chloride each time. The organic phase is washed with water, dried over sodium sulfate and evaporated. The orange residue obtained is chromatographed on 400 g of silica gel with methylene chloride/ethyl acetate (1:1). From ether/hexane there is obtained α-(3,4-dimethoxy-5-nitrophenyl)-2-benzimidazolemethanol in the form of yellowish crystals of m.p. 50° (dec.).

reactant | ethyl (3,4-dimethoxy-5-nitrophenyl)hydroxyacetimidate | 19.7 g | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C(C(OCC)=N)O | C12H16N2O6
reactant | o-phenylenediamine | 6.73 g | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | α-(3,4-dimethoxy-5-nitrophenyl)-2-benzimidazolemethanol | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C(O)C=1NC2=C(N1)C=CC=C2 | C16H15N3O5
